US08183275B2
To a solution of 1H-pyrazolo[3,4-b]pyridine (380 mg, 3.2 mmol) in DMF (5 mL) was added NaH (60% dispersion in mineral oil, 153 mg, 3.8 mmol). After stirring for 20 min, the mixture was heated with a heat gun and then allowed to cool to rt. SEM-Cl (647 μL, 3.8 mmol) was added dropwise and stirring continued for 2 h. The resulting mixture was partitioned between water and ethyl acetate. The organic layer was separated and concentrated, and the residue was purified by flash column chromatography (silica gel, eluting with 0-50% ethyl acetate in hexanes) to provide 1-(2-trimethylsilanylethoxymethyl)-1H-pyrazolo[3,4-b]pyridine, which was dissolved in ethanol (30 mL) and flushed with a nitrogen stream. Palladium on charcoal (5% wet on carbon, ˜50 mg) was added and the mixture was placed under hydrogen (50 psi) for 2 days. The reaction mixture was filtered, and the filtrate was concentrated to provide the title compound: 1H NMR (500 MHz, CDCl3) δ 7.13 (s, 1H), 5.24 (s, 2H), 3.68 (br, 1H), 3.54 (t, J=8.2 Hz, 2H), 3.28 (m, 2H), 2.51 (t, J=6.1, 2H), 1.81 (m, 2H), 0.89 (t, J=8.2 Hz, 2H), −0.01 (s, 9H).

reactant | 1H-pyrazolo[3,4-b]pyridine | 3.2 mmol, 380 mg | N1N=CC=2C1=NC=CC2 | C6H5N3
reactant | NaH | 3.8 mmol, 153 mg | [H-].[Na+]
reactant | SEM-Cl | 3.8 mmol, 647 μL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-trimethylsilanylethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | C[Si](CCOCN1N=CC=2C1=NC=CC2)(C)C | C12H19N3OSi
